US05387617
To a solution of 10.6 g of ethyl undecylenate in 100 mL of THF at 0° C. was added, over 1 hr, 40 mL of 3M phenyl magnesium bromide. The mixture was warmed to room temperature and stirred for 75 hrs. Methanol, 10 mL, was added to quench the excess Grinard reagent and the solvent was distilled in vacuo. The residue was shaken with diethyl ether and dilute hydrochloric acid. The ether layer was washed with water and saturated sodium hydrogen carbonate, dried, and concentrated in vacuo to give 18.3 g of crude product, which was then chromatographed on silica gel with chloroform as the eluent, to give 13.7 g of 1,1-diphenyl-10-undecen-1-ol which is characterized by:

reactant | ethyl undecylenate | 10.6 g | C(CCCCCCCCC=C)(=O)OCC | C13H24O2
reactant | phenyl magnesium bromide | 3M, 40 mL | C1(=CC=CC=C1)[Mg]Br
reactant | Methanol | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1,1-diphenyl-10-undecen-1-ol | 13.7 g | C1(=CC=CC=C1)C(CCCCCCCCC=C)(O)C1=CC=CC=C1 | C23H30O
